US07671063B2
A solution of N-(3-hydroxy-2-sulfamoyl-phenyl)-2,2-dimethyl-propionamide (15.2 g, 55.9 mmol) and N,N-dimethylformamide dimethylacetal (9.7 ml, 72.6 mmol) in DMF (65 ml) is stirred at 60° C. for 1 h. Volatiles are evaporated at reduced pressure. Chromatography of the residue (21.8 g) dissolved in dichloromethane (silica gel, hexanes/EtOAc=1:1) gives N-(2-{[1-dimethylamino-meth-(E)-ylidene]-sulfamoyl}-3-hydroxy-phenyl)-2,2-dimethyl-propionamide.

reactant | N-(3-hydroxy-2-sulfamoyl-phenyl)-2,2-dimethyl-propionamide | 55.9 mmol, 15.2 g | OC=1C(=C(C=CC1)NC(C(C)(C)C)=O)S(N)(=O)=O | C11H16N2O4S
reactant | N,N-dimethylformamide dimethylacetal | 72.6 mmol, 9.7 ml | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
product | N-(2-{[1-dimethylamino-meth-(E)-ylidene]-sulfamoyl}-3-hydroxy-phenyl)-2,2-dimethyl-propionamide | CN(\C=N\S(=O)(=O)C1=C(C=CC=C1O)NC(C(C)(C)C)=O)C | C14H21N3O4S
